US04941909
A solution of 18.0 g of isopropyl 2-chloro-5-[3-difluoromethyl-3,6-dihydro-4-methyl-2,6-dioxo-1(2H)-pyrimidinyl]- 4-fluorobenzoate in 60 ml of methylene chloride is stirred intensively for 5 minutes with 100 ml of concentrated sulphuric acid and subsequently poured onto 1 kg of ice. The resulting crystals are filtered off under suction. washed twice with 50 ml of water each time and dissolved in 300 ml of methanol. The mother liquor is extracted twice with 100 ml of methylene chloride each time and the organic phase is washed with water to neutrality and combined with the methanolic solution. This solution is dried over anhydrous sodium sulphate and evaporated to dryness. The crystalline residue is stirred with 100 ml of ethyl acetate at 70° C. and cooled to room temperature, and the crystals are filtered off under suction and washed with diethyl ether. There is obtained 2-chloro-5-[3 -difluoromethyl-3.6-dihydro-4-methyl- 2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid, m.p. 247°-248° C.

reactant | isopropyl 2-chloro-5-[3-difluoromethyl-3,6-dihydro-4-methyl-2,6-dioxo-1(2H)-pyrimidinyl]- 4-fluorobenzoate | 18.0 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C(F)F)=O | C16H14ClF3N2O4
reactant | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3 -difluoromethyl-3.6-dihydro-4-methyl- 2,6-dioxo-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C(F)F)=O | C13H8ClF3N2O4
